US07550484B2
To a solution of 4-imidazoleacetic acid hydrochloride (499 mg, 3.07 mmol) in MeOH (10 mL) was added concentrated sulfuric acid (1 mL) and the mixture was heated to 80° C. overnight. Then the mixture was cooled and concentrated. The residue was dissolved in CH2Cl2 (30 mL) and washed with saturated NaHCO3 (30 mL). The aqueous layer was saturated with NaCl (s) and extracted with EtOAc (3×30 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated to afford (1H-imidazol-4-yl)-acetic acid mnethyl ester as a yellow oil (330 mg, 66%). 1H NMR (CDCl3) δ 3.70 (s, 2H), 3.72 (s, 3H), 6.97 (s, 1H), 7.59 (s, 1H).

reactant | 4-imidazoleacetic acid hydrochloride | 3.07 mmol, 499 mg | Cl.N1C=NC(=C1)CC(=O)O
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
solvent | MeOH | 10 mL | CO | CH4O
product | (1H-imidazol-4-yl)-acetic acid | 330 mg, 66% | N1C=NC(=C1)CC(=O)O | C5H6N2O2
